US07790724B2
To a solution of 4-amino-N-tert-butyl-benzenesulfonamide (J. Med. Chem. (2003), 46(16), 3463-3475, 228 mg, 1.00 mmol) in DCM (10 mL), NBS (178 mg, 1.00 mmol) was added. The resulting mixture was stirred at RT for 30 min and washed with satd NaHCO3 (10 mL) and 10% aq Na2S2O3 (10 mL). The organic layer was separated, dried and concentrated to obtain 4-amino-3-bromo-N-tert-butyl-benzenesulfonamide (163 mg, 53%).

reactant | 4-amino-N-tert-butyl-benzenesulfonamide | 1.00 mmol, 228 mg | NC1=CC=C(C=C1)S(=O)(=O)NC(C)(C)C | C10H16N2O2S
reactant | NBS | 1.00 mmol, 178 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-amino-3-bromo-N-tert-butyl-benzenesulfonamide | 163 mg, 53% | NC1=C(C=C(C=C1)S(=O)(=O)NC(C)(C)C)Br | C10H15BrN2O2S
